US07872028B2
To a solution of (R)-tert-butyl 2-(3-chlorobenzoyl)morpholine-4-carboxylate (5.5 g, 16.9 mmol) in MeOH (50 mL), NaBH4 (5.14 g, 135 mmol) was added in portions. The mixture was stirred overnight and water (50 mL) was added, The mixture was concentrated in vacuo until MeOH was removed. The aqueous residue was extracted with EtOAc. The organic extracts were washed with brine and dried over Na2SO4. The crude product was purified by chromatography to afford (R)-tert-butyl 2-((S)-(3-chlorophenyl)(hydroxy)methyl)morpholine-4-carboxylate (4.3 g, 78%)

reactant | (R)-tert-butyl 2-(3-chlorobenzoyl)morpholine-4-carboxylate | 16.9 mmol, 5.5 g | ClC=1C=C(C(=O)[C@H]2CN(CCO2)C(=O)OC(C)(C)C)C=CC1 | C16H20ClNO4
reactant | NaBH4 | 135 mmol, 5.14 g | [BH4-].[Na+]
reactant | water | 50 mL | O | H2O
solvent | MeOH | 50 mL | CO | CH4O
product | (R)-tert-butyl 2-((S)-(3-chlorophenyl)(hydroxy)methyl)morpholine-4-carboxylate | 4.3 g, 78% | ClC=1C=C(C=CC1)[C@@H]([C@H]1CN(CCO1)C(=O)OC(C)(C)C)O | C16H22ClNO4
